US04740455
Synthesis of 5,6-dichloro-1-ethyl-3-(2-methanesulfonylaminoethyl)-2-methylbenzoimidazolium chloride
22.9 g (0.1 mol) of 5,6-dichloro-1-ethyl-2-methylbenzoimidazole and 23.6 g (0.15 mol) of N-(2-chloroethyl)methanesulfonamide were put into a 200-ml three-necked flask equipped with a stirrer and heated with stirring for 2 hours on an oil bath which had been heated to a temperature of 150° C. Then, 20 ml of anisole was added to the mixture. The mixture was then allowed to cool to room temperature with stirring. The resulting crystals were filtered off, washed with acetone and isopropanol, and dried.

reactant | 5,6-dichloro-1-ethyl-2-methylbenzoimidazole | 0.1 mol, 22.9 g | ClC1=CC2=C(N(C(=N2)C)CC)C=C1Cl | C10H10Cl2N2
reactant | N-(2-chloroethyl)methanesulfonamide | 0.15 mol, 23.6 g | ClCCNS(=O)(=O)C | C3H8ClNO2S
solvent | anisole | 20 ml | C1(=CC=CC=C1)OC | C7H8O
product | 5,6-dichloro-1-ethyl-3-(2-methanesulfonylaminoethyl)-2-methylbenzoimidazolium chloride | [Cl-].ClC1=CC2=C([N+](=C(N2CCNS(=O)(=O)C)C)CC)C=C1Cl | InChI=1S/C13H18Cl2N3O2S.ClH/c1-4-17-9(2)18(6-5-16-21(3,19)20)13-8-11(15)10(14)7-12(13)17;/h7-8,16H,4-6H2,1-3H3;1H/q+1;/p-1
